US08227601B2
4-(5-benzyl-4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
To a stirred suspension of NaH (30 mg, 1.25 mmol) in dry NMP (1.5 mL) was added 4-aminobenzylnitrile (87.4 mg, 0.74 mmol) and stirred at room temperature for 30 min under argon. The reaction mixture was added to a solution of 5-benzyl-2-fluoro-4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidine (93 mg, 0.25 mmol) in dry NMP (1 mL) and stirred at room temperature for 2 h. After completion of the reaction, the resulting mixture was diluted with water and washed with EtOAc×3. The combined organic layers were washed with water, NH4Cl, water×2, brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by preparative TLC, eluting with Hexanes:Ethyl acetate (1.5:1) afforded the product as a tan solid (12.6 mg, 11%).

reactant | NaH | 1.25 mmol, 30 mg | [H-].[Na+]
reactant | 5-benzyl-2-fluoro-4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidine | 0.25 mmol, 93 mg | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)SC2=C(C=C(C=C2C)C)C)F | C22H20FN3S
reactant | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
reactant | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-(5-benzyl-4-(mesitylthio)-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 12.6 mg, 11% | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)SC2=C(C=C(C=C2C)C)C)NC2=CC=C(C#N)C=C2 | C29H25N5S
